Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain, weight gain
 
Major Surgical or Invasive Procedure:
drain exchange (___)

 
History of Present Illness:
___ yo W w/ EtOH cirrhosis MELD 22 CP B-C  (h/o SBP, ascites, 
HE),
non variceal UGIB, s/p RNYGB (w/ multiple complications, prior
J-tube, current G-tube for enteral feedings) recently discharged
on ___ (LOS 4 weeks) for abdominal wall abscess s/p I&D x3 (ECF
at prior J-tube site) completed CTX/flagyl, course complicated 
by
___, hyponatremia and severe diuretic resistant anasarca and HE
who is presenting with abdominal pain and weight gain. Notably,
pt was discharged with a JP drain into prior J tube site with
plan for drain to be emptied daily and follow up with Dr. ___ surgery office. 

Pt presented to transplant surgery clinic as scheduled ___ and
was found to have weight gain, decision was made to send to ED
for admission.

Patient shares that since arriving home, she has felt very weak.
She complains of significant diffuse muscle aches  as if she has
the flu. Also endorses lightheadedness upon standing. Since
___, patient notices decreased appetite. She usually has 3
solid meals with ensure and carnation plus nightly tube feeds,
and since ___ she's been having maybe some cereal but
otherwise her primary source of nutrition has been from the tube
feeds. Despite having poor PO intake and strict medication and
dietary compliance, she noticed her weight went from 220lb 
around
___ to 228lb today. She also notices lower extremity and 
hip
swelling above baseline. She shares that although she has gained
weight, she still feels very dehydrated. 

No episodes of confusion, but pt does share that she has had 
only
up to 3 small volume BM per day despite taking lactulose. Today
has only had 1 small volume BM. 

In regards to abdominal pain, pt had a severe gradual onset of
___ RLQ to R mid abdominal pain  on ___ ,lasting hours and
alleviated by oxycodone 5mg x 2. Currently no symptoms. Pt 
called
her hepatologist and left a voicemail but knew she was going to
see transplant on ___ so was not as worried.  Currently with
just abdominal discomfort no more than her baseline unless when
palpated. 

Since being at home the drain has been to bulb gravity.  The
incision
and drainage site has has been cleansed then dressed with
wet-to-dry dressing.  Pt reports  minimal drainage from the
incision site.  

 ED vitals: 
Afebrile, HR 77-89, BP 92-102/37-50, RR 16, 96-100% on RA 

- Exam notable for:  
Physical exam shows a well-appearing wound on the left side of
her abdomen. Moderate tenderness on the right side of her 
abdomen
with no rebound or guarding. Clear lungs and normal heart 
sounds.
2+ lower extremity edema.

- Imaging notable for:
RUQUS: cirrhosis with no focal lesions, gallbladder distended
with stones and sludge with gallbladder wall thickening, CBD
dilation of 9mm and common hepatic dict 12mm with mild
intrahepatic biliary dilation. Trace ascites. 
CT abdomen with contrast: trace left pleural effusion with
atelectasis, + cholelithiasis w/ no evidence of cholecystitis,
cirrhosis with splenomegaly and PHTN, possible ileus, very large
stool burden throughout colon. 

- Labs notable for:
CBC stable, Chem 10 notable for Cr .9 -> 1.1 otherwise stable,
LFT notable for AST 120 from 47, Alk phos 137 from 113, Tbili 
2.5
which is at baseline. 
Blood culture pending, UA with trace leuks otherwise negative,
lipase 30 

Pt was evaluated by transplant surgery who recommended no 
further
imaging or testing and hepatology who recommended admit to ET 
for
diuresis.

- Patient was given:  
___ 13:40 IV Morphine Sulfate 4 mg  
___ 16:00 IVF  NS   
___ 16:10 IVF  NS ( 250 mL ordered) Started  
___ 16:10 IV Morphine Sulfate 2 mg 
___ 18:51 IV Morphine Sulfate 2 mg 
___ 20:33 PO/NG Rifaximin 550 mg 
___ 20:33 PO/NG Ciprofloxacin HCl 500 mg 
___ 20:33 PO LevETIRAcetam 1000 mg 
___ 20:33 PO Midodrine 5 mg 
___ 20:33 PO/NG Torsemide 120 mg 

 
Past Medical History:
Per prior discharge summary 
- ETOH cirrhosis complicated by ascites, HE, SBP
- Obesity  
     - s/p gastric bypass c/b stricture of the gastrojejunal  
     anastomosis and internal hernia causing SBO s/p multiple  
     endoscopic dilations c/b perforation (as detailed below)  
- SBO as above  
- Exploratory laparotomy, takedown old gastrojejunostomy,  
gastrogastrostomy, feeding jejunostomy ___ ___ for  
perforated gastrojejunal anastomosis site with reopening of  
recent laparotomy and closure of gastrostomy ___ ___  
- Epileptiform discharges concerning for possible seizure in  
setting of altered mental status, started on keppra ___  
- numerous hospitalizations for abdominal pain, requiring  
paracenteses  
- depression/anxiety  
- GERD  
- hx of Cdiff  
- IBS  
- Chronic fatigue syndrome  
- Hypertriglyceridemia  
- Hyponatremia  
- Right breast lesions s/p U/S guided core biopsy on ___ -  
pathology showing fibroadipose tissue with blood, fibrin, and  
predominantly acute inflammatory cell infiltrate, karyorrhectic 
debris, and scattered calcifications 
 
Social History:
___
Family History:
Per prior discharge summary
- father w/ diabetes  
- maternal grandfather has unknown cancer  
- She has no family history of liver disease, hemochromatosis,  
 autoimmune diseases, or non-smoker emphysema 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
===================================
Vitals:  98.9 ___. Positive orthostatic 
vitals
with DBP dropping 10mmhg
GENERAL: NAD, AOx3, ___ backwards with ease 
HEENT: AT/NC, mild scleral icterus. 
NECK: supple
HEART: RRR, crescendo-decrescendo systolic murmur
LUNGS: decreased breath sounds at base bilaterally with faint
crackles at RL base
ABDOMEN: G tube site is dressed. Old J-tube site has 3 inch
horizontal open wound, 1inch deep with granulation tissue and 2
deep sutures visualized , no surrounding erythema and
edema/induration. Area is minimally tender to palpation. Abdomen
distended on the right with tenderness to mild palpation in RL
and RM abdomen 
 2+ dependent pitting edema in flanks bilaterally
EXTREMITIES: Improved 2+ pitting edema in lower left lower
extremitiy to the knees, RLE with improved 1+ edema in ankle 
NEURO: Answering questions appropriately, alert. no asterixis 
SKIN: warm and well perfused  

DISCHARGE PHYSICAL EXAMINATION:  
===================================
Vitals: 98.9PO 101 / 51 89 18 99 RA 
GENERAL: NAD, AOx3
HEENT: Mild scleral icterus. 
HEART: RRR, crescendo-decrescendo systolic murmur
LUNGS: Decreased breath sounds at base bilaterally with
soft crackles at b/l base.
ABDOMEN: Soft, ttp in all quadrants and worst in b/l lower
quandrants. No rebound/guarding. G tube site and JP drain site
are dressed. Good bowel sounds throughout
EXTREMITIES: ___ Pitting edema to mid-shins b/l lower
extremities and 2+ dependent sacral edema  
NEURO: Answering questions appropriately, alert. No asterixis 
SKIN: Warm and well perfused 

 
Pertinent Results:
ADMISSION LABS:
=======================
___ 01:00PM BLOOD WBC-8.3 RBC-2.20* Hgb-8.2* Hct-23.5* 
MCV-107* MCH-37.3* MCHC-34.9 RDW-19.8* RDWSD-76.3* Plt ___
___ 01:00PM BLOOD Neuts-73.1* Lymphs-10.8* Monos-14.4* 
Eos-1.2 Baso-0.1 Im ___ AbsNeut-6.08 AbsLymp-0.90* 
AbsMono-1.20* AbsEos-0.10 AbsBaso-0.01
___ 01:00PM BLOOD ___ PTT-37.3* ___
___ 01:00PM BLOOD Glucose-112* UreaN-50* Creat-1.1 Na-130* 
K-4.2 Cl-89* HCO3-26 AnGap-15
___ 01:00PM BLOOD ALT-36 AST-120* CK(CPK)-18* AlkPhos-137* 
TotBili-2.5*
___ 01:00PM BLOOD Lipase-30
___ 01:00PM BLOOD proBNP-559*
___ 04:37AM BLOOD Albumin-3.5 Calcium-8.7 Phos-4.7* Mg-2.1
___ 04:37AM BLOOD %HbA1c-4.3 eAG-77
___ 01:05PM BLOOD Lactate-1.4
___ 01:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 01:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-TR*
___ 01:00PM URINE RBC-1 WBC-5 Bacteri-NONE Yeast-NONE Epi-2
___ 04:37AM BLOOD %HbA1c-4.3 eAG-77

IMAGING:
=======================
RUQUS ___. Cirrhotic liver, without evidence of focal lesion, 
splenomegaly or ascites. 
2. Gallbladder is distended with stones and sludge with evidence 
of 
gallbladder wall thickening.  The common bile duct measures 9 mm 
and the 
common hepatic duct measures approximately 12 mm with mild 
intrahepatic 
biliary dilatation.  This appears increased compared to 
ultrasound performed ___.  Recommend further 
evaluation with CT abdomen pelvis. 
3. Trace ascites. 
4. Stable splenomegaly. 
  
CT ABDOMEN/PELVIS ___. Trace left pleural effusion with subjacent atelectasis.
2. Cholelithiasis without evidence of cholecystitis.
3. Cirrhotic liver with splenomegaly, varices and ascites 
consistent with
portal hypertension.
4. Dilated loops of small bowel without a definite transition 
point appears
similar to ___, and ileus is favored over 
obstruction.  There is
a very large stool burden throughout the colon.
5. Re-demonstrated mild right hydronephrosis.
6. Likely some coronary artery calcifications are again noted, 
of note in a
patient of this age.
 
CXR ___
Subsegmental atelectasis in the lingula and left lower lobe is 
unchanged. 
Right-sided PICC line has been removed.  Cardiomediastinal 
silhouette is
stable.  Lungs are low volume.  No pneumothorax is seen.  There 
are no pleural
effusions

ABDOMINAL XRAY ___. Multiple air-fluid levels within dilated small bowel loops, 
similar to
prior, reflecting ileus or partial small-bowel obstruction.
2. No free intraperitoneal air on supine.
3. Delayed nephrogram reflecting renal dysfunction.

MICROBIOLOGY:
=======================
BLOOD CULTURES NEGATIVE

DISCHARGE LABS:
=======================
___ 06:00AM BLOOD WBC-7.1 RBC-2.12* Hgb-7.8* Hct-22.8* 
MCV-108* MCH-36.8* MCHC-34.2 RDW-19.0* RDWSD-74.8* Plt Ct-89*
___ 06:00AM BLOOD ___ PTT-37.8* ___
___ 06:00AM BLOOD Glucose-109* UreaN-34* Creat-1.0 Na-138 
K-4.1 Cl-97 HCO3-25 AnGap-16
___ 06:00AM BLOOD ALT-14 AST-43* AlkPhos-119* TotBili-4.2*
___ 06:00AM BLOOD Albumin-3.9 Calcium-8.6 Phos-1.7* Mg-1.___ w/ EtOH cirrhosis (h/o SBP, ascites, HE), UGIB, s/p RNYGB 
(w/ multiple complications, prior J-tube, current G-tube for 
enteral feedings) recently discharged on ___ (LOS 4 weeks) for 
abdominal wall abscess s/p I&D x3 (ECF at prior J-tube site s/p 
CTX/flagyl) s/p drain placement, admitted with c/f volume 
overload, found to have pSBO, severe constipation with course 
c/b ___ ___ CIN, hyponatremia, now resolved.

ACUTE ISSUES:
=============
# Abdominal pain
# Constipation 
# Partial SBO, resolved: 
Patient presented with worsening abdominal pain to the ED, and 
CT A/P revealed large stool burden, likely in the setting of 
opioid medication use. Patient was started on aggressive bowel 
regimen but developed worsening nausea. KUB showed air-fluid 
levels concerning for partial bowel obstruction. NGT was placed 
for decompression and G tube was set to gravity; patient was 
NPO. Patient continued to stool and her symptoms resolved. She 
was able to tolerate po and NGT was removed. Tube feeds were 
restarted ___ pm without any complications. 

Of note, there was no evidence of infection around drain site or 
G tube, and only minimal ascites thus could not rule out SBP but 
had low suspicion for infectious etiology. Cipro was continued 
for SBP ppx.Pain medications were decreased this hospitalization 
with plan for discharge on lower chronic doses, as tolerated. 

# ___ ___ CIN
# Oliguria
Patient presented with mild ___ and was thought to be 
intravascularly depleted, for which her diuretics were held and 
she was given albumin for fluid resuscitation. Cr continued to 
rise, however, to peak of 4.8, and patient developed oliguria 
and a new oxygen requirement. Given timing of deterioration (~2 
days post-CT with contrast), symptoms were attributed to CIN. 
Nephrology followed the patient in-house. She made an excellent 
recovery with normalization of urine output and Cr back to 1.0. 
Diuretics were held until day of discharge and restarted at a 
lower dose of torsemide 20 mg daily. 

# Abdominal abscess s/p I&D, drain placement:
drain fell out during the course of hospitalization and was 
replaced by ___. No increased drainage, purulence or other signs 
of infection noted. Wound care recs provided by Transplant 
surgery team, which was following in house. 

# Alcoholic cirrhosis:
Followed by Dr. ___. Last drink ___. MELD 22, CP B-C. 
- HE: not active, but with positive history. Continued on 
rifaximin and
lactulose. 
- SBP: Trace ascites this hospitalization, but has had ascites 
and SBP before. She was continued on ciprofloxacin for SBP 
prophylaxis. 
- Ascites: Held diuretics in house in setting of intravascular 
depletion and ___. Restarted torsemide 20 mg daily at discharge. 

- Varices: EGD ___ with diffuse friability of stomach seen
with oozing, no intervenable lesions, no varices. Given CP B, 
she could benefit from primary prophylaxis with beta blocker; 
however, need for midodrine due to orthostatic hypotension 
prevents BB initiation. 
- Coagulopathy: elevated INR, received a trial of vitamin K with 
limited improvement in INR.
-Ca screening: cross sectional imaging with no concerning 
lesions
-Transplant w/u: per previous documentation, not a candidate due 
to comorbidities

# Anemia
# H/o UGIB
Patient with chronic anemia and hemoglobin between ___. No 
evidence of bleeding this hospitalization, though she required 
1u pRBC on ___. Anemia likely due to cirrhosis and 
coagulopathy. 

#Weakness: 
Likely due to malnutrition and acute on chronic illness. 

CHRONIC/RESOLVED ISSUES:
===========================
# Hyponatremia, resolved: 
Na decreased to 123 in setting of oliguria and rapidly worsening 
renal function. Na improved with autodiuresis once patient's 
creatinine improved.

#Hx of seizure
Continued on home keppra, renally dosed. 

#GERD
continued daily omeprazole.

#Chronic pain 
- continued tramadol, minimized home oxycodone and dilaudid with 
the help of the patient in order to minimize risk of recurrent 
constipation.

TRANSITIONAL ISSUES:
=====================
New Medications: Neutra-phos
Changed medications: torsemide dose decreased to 20 mg daily
Stopped medications: oxycodone

[] Follow up with Dr. ___ ___ at 1 pm
[] Follow up with PCP as scheduled
[] Please schedule follow up with Dr. ___ surgery) 
for further management of her abdominal abscess drain. 
[] Please check lytes on ___ and fax to Dr ___ at 
___ 
[] Continue tube feeds as below
[] Continue supplementation with neutral-phos until levels 
normalize. 
[] Uptitrate diuretics as tolerated pending Cr on re-check
[] Zinc supplementation ends in 9 days (___)

Discharge MELD:22
Discharge weight:104.87 kg (231.19 lb) 

# CODE: Presumed FULL
# CONTACT: ___ (mother), ___ (father); Phone 
number: ___, Cell phone: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO BID:PRN Pain - Mild 
2. Bisacodyl ___ mg PO DAILY:PRN Constipation 
3. Ciprofloxacin HCl 500 mg PO DAILY 
4. Escitalopram Oxalate 20 mg PO DAILY 
5. Lactulose 30 mL PO Q6H 
6. FoLIC Acid 1 mg PO DAILY 
7. LevETIRAcetam Oral Solution 1000 mg PO BID 
8. Metoclopramide 5 mg PO Q6H 
9. Midodrine 10 mg PO TID 
10. Polyethylene Glycol 17 g PO DAILY 
11. Rifaximin 550 mg PO BID 
12. Thiamine 100 mg PO DAILY 
13. TraMADol 50 mg PO BID 
14. Omeprazole 40 mg PO DAILY 
15. Multivitamins 1 TAB PO DAILY 
16. HYDROmorphone (Dilaudid) 2 mg PO DAILY PRN Pain - Moderate 
17. Vitamin D ___ UNIT PO 1X/WEEK (___) 
18. Zinc Sulfate 220 mg PO DAILY 
19. Torsemide 120 mg PO BID 
20. OxyCODONE (Immediate Release) 5 mg PO BID:PRN Pain - 
Moderate 

 
Discharge Medications:
1.  Neutra-Phos 2 PKT PO TID Duration: 1 Day 
RX *potassium, sodium phosphates [Phos-NaK] 280 mg-160 mg-250 mg 
1 powder(s) by mouth three times a day Disp #*30 Packet 
Refills:*0 
2.  Torsemide 20 mg PO DAILY 
RX *torsemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Acetaminophen 650 mg PO BID:PRN Pain - Mild  
4.  Bisacodyl ___ mg PO DAILY:PRN Constipation  
5.  Ciprofloxacin HCl 500 mg PO DAILY  
6.  Escitalopram Oxalate 20 mg PO DAILY  
7.  FoLIC Acid 1 mg PO DAILY  
8.  HYDROmorphone (Dilaudid) 2 mg PO DAILY PRN Pain - Moderate  
9.  Lactulose 30 mL PO Q6H  
10.  LevETIRAcetam Oral Solution 1000 mg PO BID  
11.  Metoclopramide 5 mg PO Q6H  
12.  Midodrine 10 mg PO TID  
13.  Multivitamins 1 TAB PO DAILY  
14.  Omeprazole 40 mg PO DAILY  
15.  Polyethylene Glycol 17 g PO DAILY  
16.  Rifaximin 550 mg PO BID  
17.  Thiamine 100 mg PO DAILY  
18.  TraMADol 50 mg PO BID  
19.  Vitamin D ___ UNIT PO 1X/WEEK (___)  
20.  Zinc Sulfate 220 mg PO DAILY 
RX *zinc sulfate 220 mg (50 mg zinc) 1 capsule(s) by mouth Daily 
Disp #*9 Capsule Refills:*0 
21.Outpatient Lab Work
ICD-10: N17.9, E87.8
please check a chem-10 panel and fax results to Dr. ___ 
___, Fax: ___ 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: 
partial small bowel obstruction
severe constipation
contrast-induced nephropathy/acute kidney injury
severe malnutrition

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure being a part of your care during your 
hospitalization at ___!
 
Why were you hospitalized?
- Because of concern that you had too much extra fluid that 
needed to be taken off and worsening abdominal pain

What was done for you this hospitalization?
- You had a CT scan of your belly that showed significant 
constipation, as well as a partial obstruction of your small 
bowel.
- You were given bowel medications and bowel rest, NG tube to 
help decompress your bowels, with good effect
- Your JP drain fell out, and was replaced by ___
- Your kidneys suffered an injury, likely from the contrast used 
in your CT scan, so you were unable to urinate for a couple of 
days. Your kidney function improved, however, and is back to 
normal at discharge.

What should you do after you go home?
- Follow up with Dr. ___ on ___.
- Follow up with your PCP as scheduled.
- Because you did not eat for several days, restarting the tube 
feeds caused your phosphate level to be low. Please take 
neutral-phos packets as directed over the next several days. 
Have your labs checked and faxed over to Dr. ___ he can 
adjust your phosphate supplementation as needed.
- Your water pill dose was very high and was held at discharge. 
We restarted you on a low dose of torsemide, 20 mg. If your 
kidney function remains good at re-check, you can increase the 
dose to 40 mg.

We wish you the best!

Sincerely, 
Your ___ team
 
Followup Instructions:
___